US09422290B2
1-{4-[6-(Benzyl-methyl-amino)-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-ylamino]-piperidin-1-yl}-ethanone
N6-Benzyl-3,N6-dimethyl-N8-piperidin-4-yl-[1,2,4]triazolo[4,3-b]pyridazine-6,8-diamine (0.05 g; 0.11 mmol) was placed in 1 ml DCM and treated with DIPEA (0.04 ml; 0.23 mmol) and acetyl chloride (0.04 ml; 0.57 mmol). It was stirred at ambient temperature for 4 hours. The crude reaction mixture was purified by using reversed phase chromatography under acid conditions.

reactant | N6-Benzyl-3,N6-dimethyl-N8-piperidin-4-yl-[1,2,4]triazolo[4,3-b]pyridazine-6,8-diamine | 0.11 mmol, 0.05 g | C(C1=CC=CC=C1)N(C=1C=C(C=2N(N1)C(=NN2)C)NC2CCNCC2)C | C19H25N7
reactant | DIPEA | 0.23 mmol, 0.04 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | acetyl chloride | 0.57 mmol, 0.04 ml | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 1-{4-[6-(Benzyl-methyl-amino)-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-ylamino]-piperidin-1-yl}-ethanone | C(C1=CC=CC=C1)N(C=1C=C(C=2N(N1)C(=NN2)C)NC2CCN(CC2)C(C)=O)C | C21H27N7O
